US07091352B2
2) (±)-7-(Pyridin-4-yl)methyleneamino-1,2,3,5,6,7,8,8a-octahydroindolizine
(±)-7-Amino-1,2,3,5,6,7,8,8a-octahydroindolizine (4.91 g (35.0 mmol), prepared as described in 1)) was dissolved in toluene (95 ml). To the solution were added 4-formylpyridine (3.34 ml, 35.0 mmol) and anhydrous magnesium sulfate (3.75 g, 31.2 mmol), and the resulting mixture was stirred at 70° C. for 3 hours. At the end of this time, the reaction mixture was filtered to remove the catalyst and the filtrate was concentrated by evaporation under reduced pressure, to give the title compound (8.08 g) as a pale yellow oil (yield quantitative).

reactant | (±)-7-Amino-1,2,3,5,6,7,8,8a-octahydroindolizine | 35.0 mmol, 4.91 g | NC1CCN2CCCC2C1 | C8H16N2
reactant | 4-formylpyridine | 35.0 mmol, 3.34 ml | C(=O)C1=CC=NC=C1 | C6H5NO
reactant | magnesium sulfate | 31.2 mmol, 3.75 g | S(=O)(=O)([O-])[O-].[Mg+2]
solvent | toluene | 95 ml | C1(=CC=CC=C1)C | C7H8
product | (±)-7-(Pyridin-4-yl)methyleneamino-1,2,3,5,6,7,8,8a-octahydroindolizine | 8.08 g | N1=CC=C(C=C1)C=NC1CCN2CCCC2C1 | C14H19N3
